.START
..refdes	device	value	footprint	quantity
Cm	CAPACITOR	20p	0402	1
Cp	CAPACITOR	20p	0402	1
X1	LVD	unknown	unknown	1
A1	model	unknown	unknown	1
M1	PMOS_TRANSISTOR	w=10u	PMOS_100000X10000	1
Rt	RESISTOR	1k	0402	1
Rlp	RESISTOR	1meg	0402	1
Rb	RESISTOR	5.6k	0402	1
Rlm	RESISTOR	500k	0402	1
Vdd	VOLTAGE_SOURCE	DC 3.3V	none	1
V1	VOLTAGE_SOURCE	pulse 3.3 0 1u 10p 10p 1.25u 2.5u	none	1
.END
