.START
..device	value	footprint	quantity	refdes
CAPACITOR	20p	0402	2	Cm Cp
LVD	unknown	unknown	1	X1
PMOS_TRANSISTOR	w=10u	PMOS_100000X10000	1	M1
RESISTOR	1k	0402	1	Rt
RESISTOR	1meg	0402	1	Rlp
RESISTOR	5.6k	0402	1	Rb
RESISTOR	500k	0402	1	Rlm
VOLTAGE_SOURCE	DC 3.3V	none	1	Vdd
VOLTAGE_SOURCE	pulse 3.3 0 1u 10p 10p 1.25u 2.5u	none	1	V1
.END
