* Spice netlister for gnetlist
A1 <No valid value attribute found>
Cm m 0 20p
Cp p 0 20p
Rlp p Vdd1 1meg
Rlm m 0 500k
Vdd Vdd1 0 DC 3.3V
V1 i 0 pulse 3.3 0 1u 10p 10p 1.25u 2.5u
Rt p m 1k
Rb 0 LVH 5.6k
M1 LVH LVH Vdd1 Vdd1 w=10u l=3u w=3u
X1 i 0 LVH m p Vdd1 0 <No valid value attribute found>
.END
