* Spice netlister for gnetlist
C2 2 Vbase2 2.2uF
R4 0 Vbase2 2.8K
R3 Vbase2 VCC 28K
R8 Vcoll1 2 1
CE2 0 Vem2 1pF
RE2 0 Vem2 100
RC1 Vcoll1 VCC 3.3K
Q2 VColl2 Vbase2 Vem2 <No valid value attribute found>
C1 1 Vbase1 2.2uF
A3 .options TEMP=25
A2 <No valid value attribute found>
A1 <No valid value attribute found>
VCC VCC 0 DC 15V
Vinput Vin 0 DC 1.6V AC 10MV SIN(0 1MV 1KHZ)
CE1 0 Vem1 1pF
Cout VColl2 Vout 2.2uF
RL 0 Vout 100K
RC2 VColl2 VCC 1K
RE1 0 Vem1 100
R2 0 Vbase1 2K
R1 Vbase1 VCC 28K
R5 Vin 1 10
Q1 Vcoll1 Vbase1 Vem1 <No valid value attribute found>
.END
