* Spice netlister for gnetlist
F1 one unconnected_pin-3 <No valid value attribute found>
U300 one 1 ERROR_INVALID_PIN ERROR_INVALID_PIN 7404
U200 one netattrib ERROR_INVALID_PIN ERROR_INVALID_PIN 7404
U100 unconnected_pin-2 unconnected_pin-1 one ERROR_INVALID_PIN ERROR_INVALID_PIN ERROR_INVALID_PIN <No valid value attribute found>
.END
