* geda-gaf/gnetlist/src/.libs/lt-gnetlist -g spice-sdb -O sort_mode LVDfoo.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*vvvvvvvv  Included SPICE from ./models/openIP_5.cir vvvvvvvv
*
.model unknown_LVD (stuff)
*^^^^^^^^  End of included SPICE from ./models/openIP_5.cir ^^^^^^^^
*
*============== Begin SPICE netlist of main design ============
Cm m 0 20p  
Cp p 0 20p  
M1 LVH LVH Vdd1 Vdd1 pch  l=3u w=3u m=36
Rb 0 LVH 5.6k  
Rlm m 0 500k  
Rlp p Vdd1 1meg  
Rt p m 1k  
V1 i 0 pulse 3.3 0 1u 10p 10p 1.25u 2.5u
Vdd Vdd1 0 DC 3.3V
UX1 i 0 LVH m p Vdd1 0 unknown_LVD
.end
